US09120761B2
(g) tert-Butyl 4-(3-ethyl-4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)-amino)phenyl)piperidine-1-carboxylate (I43)
tert-Butyl 4-(3-ethyl-4-((4-((2-(2-methoxy-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I42) (311 mg, 0.499 mmol) was dissolved in ethanol (20 mL), and a slurry of Pd/C (150 mg) in ethanol (2 mL) was added. The mixture was stirred under hydrogen for 18 hours, filtered through celite, washing the celite with ethanol (20 mL) and the filtrate concentrated. The mixture was taken up in ethanol (20 mL), and a slurry of Pd/C (150 mg) in ethanol (2 mL) was added followed by triethylamine (20 μL). The mixture was stirred under hydrogen for 18 hours, filtered through celite, the celite washed with ethanol (10 mL) and the combined filtrates evaporated. The residue was taken up in DMF (10 mL), a slurry of Pd/C (150 mg) in DMF (2 mL) was added and the mixture stirred under hydrogen. After 16 hours the mixture was filtered through celite, and the celite washed with ethyl acetate (100 mL). The combined filtrate was evaporated to give a pale green oil. Chromatography (12 g silica cartridge, 0-60% ethyl acetate/petroleum benzine 40-60° C.) gave the title compound (I43) (177.1 mg, 57% yield) as a pale yellow oil. 1H NMR (400 MHz, CDCl3) δ 8.49 (d, J=0.5 Hz, 1H), 7.73 (d, J=8.1 Hz, 1H), 7.25-7.16 (m, 4H), 7.12-7.07 (m, 2H), 7.06 (s, 1H), 4.25 (br s, 2H), 3.72 (s, 2H), 3.67 (s, 3H), 3.14-3.01 (m, 4H), 2.81 (t, J=12.2 Hz, 2H), 2.72-2.59 (m, 3H), 1.84 (d, J=13.0 Hz, 2H), 1.69-1.56 (m, overlaps with water in solvent), 1.49 (s, 9H), 1.26 (t, J=7.1 Hz, 3H). LCMS: rt 7.16 min; m/z 627.2 [M+H]+; 571.1 [M-tBu+2H]+; m/z 625.2 [M−H]−.

reactant | tert-Butyl 4-(3-ethyl-4-((4-((2-(2-methoxy-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.499 mmol, 311 mg | C(C)C=1C=C(C=CC1NC1=NC=C(C(=N1)C#CC1=C(C=CC=C1)CC(=O)OC)C(F)(F)F)C1CCN(CC1)C(=O)OC(C)(C)C | C34H37F3N4O4
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | tert-Butyl 4-(3-ethyl-4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)-amino)phenyl)piperidine-1-carboxylate | 177.1 mg, 57% yield | C(C)C=1C=C(C=CC1NC1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)OC)C(F)(F)F)C1CCN(CC1)C(=O)OC(C)(C)C | C34H41F3N4O4
